US06706709B2
3-[5-(2-Morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide
A mixture of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide (27 mg, 0.12 mmol), 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde (30 mg, 0.11 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 90° C. for 2 hours. The reaction was cooled at 0° C. for overnight. The precipitate was collected by vacuum filtration, washed with cold ethanol and dried to give 38 mg (62%) of the title compound as an orange solid.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide | 0.12 mmol, 27 mg | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)N | C8H8N2O3S
reactant | 5-(2-morpholin-4-yl-ethoxy)-1H-indole-2-carbaldehyde | 0.11 mmol, 30 mg | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=O | C15H18N2O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-Morpholin-4-yl-ethoxy)-1H-indol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide | 38 mg, 62% | N1(CCOCC1)CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=C(C=C12)S(=O)(=O)N)=O | C23H24N4O5S
